US08193228B2
1,1,1-Trifluoroacetone (680 mg, 6.1 mmol) was added to an ambient temperature solution of benzyl (triphenylphosphoranylidene)acetate (2.5 g, 6.1 mmol) in methylene chloride (10 mL). After stirring in a sealed tube for 72 h, the reaction mixture was concentrated in vacuo. Chromatography over silica eluting with 0-20% ethyl acetate/hexane afforded benzyl 4,4,4-trifluoro-3-methylbut-2-enoate.

reactant | 1,1,1-Trifluoroacetone | 6.1 mmol, 680 mg | FC(C(=O)C)(F)F | C3H3F3O
reactant | benzyl (triphenylphosphoranylidene)acetate | 6.1 mmol, 2.5 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)(C1=CC=CC=C1)=CC(=O)OCC1=CC=CC=C1 | C27H23O2P
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
product | benzyl 4,4,4-trifluoro-3-methylbut-2-enoate | FC(C(=CC(=O)OCC1=CC=CC=C1)C)(F)F | C12H11F3O2
